US09085555B2
A. 5-(Benzyloxy)-N-methoxy-N-methyl-1H-indazole-3-carboxamide
The title compound was prepared in a similar manner as described by F. Crestey et al., Tetrahedron 2007, 63, 419-428: To 5-(benzyloxy)-1H-indazole-3-carboxylic acid [177941-16-1] (3.50 g, 13.1 mmol) in THF (70 mL) was added N,O-dimethylhydroxylamine (1.40 g, 14.4 mmol). The mixture was cooled to 0° C. before the addition of pyridine (2.30 mL, 28.7 mmol). The solution was stirred at 0° C. for 1.5 h, and then at RT for 1 h. Pyridine (2.10 mL, 26.1 mmol) and EDCl (5.00 g, 26.1 mmol) were added and the mixture was stirred at RT overnight. Water was added to the reaction mixture followed by extraction (×3) with CH2Cl2. The combined organics were washed with saturated aqueous NaHCO3 solution, then dried (Phase separator) and evaporated to give the title compound. MS (LC/MS): 312.0 [M+H]+, 334.0 [M+Na]+, 645.1 [2M+Na]+, 310.0 [M−H]−; tR (HPLC conditions c): 4.44 min.

reactant | 5-(benzyloxy)-1H-indazole-3-carboxylic acid | 13.1 mmol, 3.50 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C(=O)O | C15H12N2O3
reactant | N,O-dimethylhydroxylamine | 14.4 mmol, 1.40 g | CNOC | C2H7NO
reactant | pyridine | 28.7 mmol, 2.30 mL | N1=CC=CC=C1 | C5H5N
reactant | Pyridine | 26.1 mmol, 2.10 mL | N1=CC=CC=C1 | C5H5N
reactant | EDCl | 26.1 mmol, 5.00 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 5-(Benzyloxy)-N-methoxy-N-methyl-1H-indazole-3-carboxamide | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C(=O)N(C)OC | C17H17N3O3
